US08865732B2
Step 4. Preparation of 3-(difluoromethoxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2yl)pyridine-2-amine
A mixture of 5-bromo-3-(difluoromethoxy)pyridine-2-amine (88 mg, 0.37 mmol), bis(pinacolato)diboron (102 mg, 0.40 mmol), potassium acetate (0.215 mg, 2.2 mmol), and Pd(dppf)-CH2Cl2 (30 mg, 0.037 mmol) in dry dioxane (2.0 mL) was sparged with argon, and heated at 120° C. for 30 min. After cooling to rt, the reaction mixture was centrifuged and the supernatant decanted, and used in the next step without further purification: LCMS (m/z, MH+, boronic acid): 205.0, tR=0.27 min.

reactant | 5-bromo-3-(difluoromethoxy)pyridine-2-amine | 0.37 mmol, 88 mg | BrC=1C=C(C(=NC1)N)OC(F)F | C6H5BrF2N2O
reactant | bis(pinacolato)diboron | 0.40 mmol, 102 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 2.2 mmol, 0.215 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
product | 3-(difluoromethoxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2yl)pyridine-2-amine | FC(OC=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)N)F | C12H17BF2N2O3
